US09107916B2
A. 2-{5-[(3-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared in 27% yield from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 3-fluorobenzyl alcohol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.24 (2H, s), 5.73 (1H, d, J=2.0 Hz), 7.03-7.05 (1H, m), 7.07-7.21 (2H, m), 7.36-7.38 (1H, m), 7.40-7.42 (1H, m), 7.57 (1H, d, J=2.0 Hz), 8.04 (1H, s), 8.71 (1H, d, J=4.2 Hz). [M+H] Calc'd for C16H11FN4O, 295. Found, 295.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 3-fluorobenzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
product | 2-{5-[(3-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | 27% yield | FC=1C=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=CC1 | C16H11FN4O
